US04151200
Preparation of perfluoro-2-methyl-3-oxaoctanedioyl fluoride:
In a 200 cc autoclave equipped with a mechanical stirrer, 5 g of cesium fluoride powder, 20 cc of ethyleneglycol dimethyl ether and 50 g of perfluoro-δ-valerolactone was charged. Thirty seven grams of hexafluoropropylene oxide was introduced intermittently into the reactor for about 2 hours with vigorously stirring at the temperature of 0° to 5° C. under a pressure of lower than 1.0 kg/cm2G.

reactant | cesium fluoride | 5 g | [F-].[Cs+]
reactant | perfluoro-δ-valerolactone | 50 g | FC1(C(=O)OC(C(C1(F)F)(F)F)(F)F)F | C5F8O2
reactant | hexafluoropropylene oxide | Thirty seven grams | FC(C1(C(F)(F)O1)F)(F)F | C3F6O
solvent | ethyleneglycol dimethyl ether | 20 cc | COCCOC | C4H10O2
product | perfluoro-2-methyl-3-oxaoctanedioyl fluoride | FC(C(=O)F)(OC(C(C(C(C(=O)F)(F)F)(F)F)(F)F)(F)F)C(F)(F)F | C8F14O3
